US07897607B2
2-Amino-5-iodo-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one
To a solution of N-(5-iodo-7-methyl-4-oxo-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidin-2-yl)-2,2-dimethylpropanamide (17.9 g, 47.8 mmol) in tetrahydrofuran (150 ml) was added 2N aqueous solution of sodium hydroxide (57.4 ml, 115 mmol) at 0° C., and the mixture was refluxed for 5 hours After cooling, the solvent was evaporated in vacuo. The suspension was neutralized with 1N hydrochloric acid, and the resulting crystals were collected by filtration and washed with water to give 13.3 g (96%) of the title compound.

reactant | N-(5-iodo-7-methyl-4-oxo-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidin-2-yl)-2,2-dimethylpropanamide | 47.8 mmol, 17.9 g | IC1=CN(C=2N=C(NC(C21)=O)NC(C(C)(C)C)=O)C | C12H15IN4O2
reactant | sodium hydroxide | 115 mmol, 57.4 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-Amino-5-iodo-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 13.3 g, 96% | NC=1NC(C2=C(N1)N(C=C2I)C)=O | C7H7IN4O
